US04618627
Using 0.5 g of 10% palladium-carbon, 3.2 g of 1-(3,4-dibenzyloxyphenyl)-1,8-nonanedione was catalytically reduced in a mixture of 50 ml of ethanol and 1.5 ml of an aqueous 5% perchloric acid solution at room temperature and under atomospheric pressure until the absorption of hydrogen stopped. After the reaction was over, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was applied to silica gel (50 ml) column chromatography and eluted with a mixture of toluene and ethyl acetate (4:1). The crystals thus obtained were recrystallized from a mixture of toluene and n-hexane to provide 1-(3,4-dihydroxyphenyl)-8-nonanone.

reactant | 1-(3,4-dibenzyloxyphenyl)-1,8-nonanedione | 3.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C(CCCCCCC(C)=O)=O | C29H32O4
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 1-(3,4-dihydroxyphenyl)-8-nonanone | OC=1C=C(C=CC1O)CCCCCCCC(C)=O | C15H22O3
